### PR TITLE
[Merged by Bors] - feat(RingTheory): units are exactly non-zerodivisors in noncommutative Artinian rings

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Artinian/Module.lean [hunk 1]
```diff
@@ -479,6 +481,48 @@ instance {ι} [Finite ι] : ∀ {R : ι → Type*} [Π i, Semiring (R i)] [∀ i
...
+
+theorem isRightRegular_iff_isUnit [IsArtinianRing R] {x : R} : IsRightRegular x ↔ IsUnit x := by
+  rw [IsRightRegular, IsUnit.isUnit_iff_mulRight_bijective, Bijective, and_iff_left_of_imp]
+  exact IsArtinian.surjective_of_injective_endomorphism (.toSpanSingleton R R x)
+
+theorem isRegular_iff_isUnit [IsArtinianRing R] {x : R} : IsRegular x ↔ IsUnit x := by
+  rw [isRegular_iff, isRightRegular_iff_isUnit, and_iff_right_of_imp (·.isRegular.1)]
+
+theorem isLeftRegular_iff_isUnit [IsArtinianRing Rᵐᵒᵖ] {x : R} : IsLeftRegular x ↔ IsUnit x := by
+  rw [← isRightRegular_op, ← isUnit_op]; exact isRightRegular_iff_isUnit
```
Comment (themathqueen) [inline Mathlib/RingTheory/Artinian/Module.lean]:
```suggestion
  rw [← isRightRegular_op, ← isUnit_op, isRightRegular_iff_isUnit]
```

**Review by riccardobrasca — COMMENTED** [review]
This is very nice, thanks!

bors merge
